US07476688B2
A basic resin-DIAION SA10A (14.5 g) that had been treated with aqueous sodium hydroxide solution was thoroughly washed with water and ethanol. The resin was then added to a solution of dl-[(3S,4R)-4-benzyl-3-propyl-3,4-dihydro-2H-5-pyrroleamine hydrochloride (1.63 g, 7.5 mmol) in methanol (30 ml) and the mixture was stirred for 30 minutes. After filtering the resin, the solvent was distilled off under reduced pressure to yield dl-[(3S,4R)-4-benzyl-3-propyl-3,4-dihydro-2H-5-pyrroleamine (1.45 g).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | (3S,4R)-4-benzyl-3-propyl-3,4-dihydro-2H-5-pyrroleamine hydrochloride | 7.5 mmol, 1.63 g | Cl.C(C1=CC=CC=C1)[C@@H]1[C@@H](CN=C1N)CCC
solvent | methanol | 30 ml | CO | CH4O
product | (3S,4R)-4-benzyl-3-propyl-3,4-dihydro-2H-5-pyrroleamine | 1.45 g | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN=C1N)CCC | C14H20N2
